US08030438B2
(4) Synthesis of 3,4-bis(diethoxyphosphoryl)-[2,2′]-bithiophene
3,4-bis(diethoxyphosphoryl)-2-iodothiophene and different equivalents of copper(I) chloride (commercially available product) indicated in Table 6 were dissolved in DMF, to which 2-tributylstannylthiophene (1.2 equivalents) was added at room temperature. Thereafter, the reaction mixture was heated to 80° C. and stirred for 8.5 to 11 hours. After the reaction, the reaction mixture was cooled down to room temperature, to which a 0.6 M hydrochloric acid aqueous solution was added, followed by extraction of the resulting product with ethyl acetate. The organic phase was washed with a saturated saline solution and dried over anhydrous sodium sulfate. The solvent was removed by distilling off under reduced pressure and the resulting crude product was purified with a silica gel column (ethyl acetate:methanol=15:1) to obtain the specified substance.

reactant | 3,4-bis(diethoxyphosphoryl)-2-iodothiophene | C(C)OP(=O)(OCC)C1=C(SC=C1P(=O)(OCC)OCC)I | C12H21IO6P2S
reactant | 2-tributylstannylthiophene | 1.2 equivalents | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
reactant | hydrochloric acid | 0.6 M | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | copper(I) chloride | [Cu]Cl
product | 3,4-bis(diethoxyphosphoryl)-[2,2′]-bithiophene | C(C)OP(=O)(OCC)C1=C(SC=C1P(=O)(OCC)OCC)C=1SC=CC1 | C16H24O6P2S2
